US07678798B2
[(5-Bromo-2,3-dihydro-1H-inden-1-yl)oxy](tert-butyl)dimethylsilane
To a solution of 5-bromoindan-1-ol (4.00 g, 18.8 mmol) in N,N-dimethylformamide (25.00 mL) were added triethylamine (5.23 mL, 37.5 mmol), tert-butyldimethylsilyl chloride (4.244 g, 28.16 mmol) and 4-dimethylaminopyridine (115 mg, 0.939 mmol) at room temperature. The reaction mixture was stirred at room temperature for 3 h. The mixture was diluted with ether (100 mL) and quenched with water. The aqueous phase was extracted with ether (4×40 mL). The combined extracts were washed with brine, dried over anhydrous Na2SO4, filtered and evaporated under reduced pressure. Chromatography on silica gel with 5% EtOAc/hexane afforded the desired product (6.05 g, 98%).

reactant | 5-bromoindan-1-ol | 18.8 mmol, 4.00 g | BrC=1C=C2CCC(C2=CC1)O | C9H9BrO
reactant | triethylamine | 37.5 mmol, 5.23 mL | C(C)N(CC)CC | C6H15N
reactant | tert-butyldimethylsilyl chloride | 28.16 mmol, 4.244 g | [Si](C)(C)(C(C)(C)C)Cl | C6H15ClSi
solvent | N,N-dimethylformamide | 25.00 mL | CN(C=O)C | C3H7NO
catalyst | 4-dimethylaminopyridine | 0.939 mmol, 115 mg | CN(C1=CC=NC=C1)C | C7H10N2
solvent | ether | 100 mL | CCOCC | C4H10O
product | [(5-Bromo-2,3-dihydro-1H-inden-1-yl)oxy](tert-butyl)dimethylsilane | 6.05 g, 98% | BrC=1C=C2CCC(C2=CC1)O[Si](C)(C)C(C)(C)C | C15H23BrOSi
